US04508730
(a) N-(4-benzoyl-5-methyl-(1H)pyrrol-3-yl) 2-chloroacetamide
4-Amino-3-benzoyl-2-methylpyrrole hydrochloride (0.019 mole) was dissolved in water (40 ml) and the solution was treated with charcoal (0.1 g) and filtered. Toluene was added and chloroacetylchloride (0.067 mole) and aqueous NaOH (58.1 ml, 20% w/v) were added separately but simultaneously during 1 hour to the stirred two-phase solution. The reaction mixture was maintained under an inert atmosphere and at room temperature for 1.5 hour. The compound of the title which spontaneously crystallized out of the reaction mixture, was collected by filtration.

reactant | 4-Amino-3-benzoyl-2-methylpyrrole hydrochloride | 0.019 mole | Cl.NC=1C(=C(NC1)C)C(C1=CC=CC=C1)=O
reactant | charcoal | 0.1 g | C | CH4
reactant | chloroacetylchloride | 0.067 mole | ClCC(=O)Cl | C2H2Cl2O
reactant | NaOH | 58.1 ml | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
product | N-(4-benzoyl-5-methyl-(1H)pyrrol-3-yl) 2-chloroacetamide | C(C1=CC=CC=C1)(=O)C=1C(=CNC1C)NC(CCl)=O | C14H13ClN2O2
